US07745641B2
In a similar manner to Step 1 of Example 233, 4-hydroxy-7-[1-(tert-butoxycarbonyl)-5-(piperidinomethyl)indol-2-yl]isoindolinone (0.0358 g, 0.0776 mmol) was dissolved in acetonitrile (0.650 mL), and the solution was treated with triethylamine (0.0650 mL, 0.465 mmol) and 1-naphthalenesulfonyl chloride (0.0530 g, 0.233 mmol) to obtain 4-(1-naphthalenesulfonyloxy)-7-[1-(tert-butoxycarbonyl)-5-(piperidinomethyl)indol-2-yl]isoindolinone (0.0309 g, yield 61%).

reactant | 4-hydroxy-7-[1-(tert-butoxycarbonyl)-5-(piperidinomethyl)indol-2-yl]isoindolinone | 0.0776 mmol, 0.0358 g | OC1=C2CNC(C2=C(C=C1)C=1N(C2=CC=C(C=C2C1)CN1CCCCC1)C(=O)OC(C)(C)C)=O | C27H31N3O4
reactant | triethylamine | 0.465 mmol, 0.0650 mL | C(C)N(CC)CC | C6H15N
reactant | 1-naphthalenesulfonyl chloride | 0.233 mmol, 0.0530 g | C1(=CC=CC2=CC=CC=C12)S(=O)(=O)Cl | C10H7ClO2S
solvent | acetonitrile | 0.650 mL | C(C)#N | C2H3N
product | 4-(1-naphthalenesulfonyloxy)-7-[1-(tert-butoxycarbonyl)-5-(piperidinomethyl)indol-2-yl]isoindolinone | 0.0309 g, yield 61% | C1(=CC=CC2=CC=CC=C12)S(=O)(=O)OC1=C2CNC(C2=C(C=C1)C=1N(C2=CC=C(C=C2C1)CN1CCCCC1)C(=O)OC(C)(C)C)=O | C37H37N3O6S
